US07476666B2
Step 1: Methyl 3-benzyloxy-5-(4-fluorobenzyl)-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate
The title compound was prepared from methyl 3-benzyloxy-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate using a procedure similar to that found in Example 13, Step 1, except that 4-fluorobenzyl bromide was used in place of iodomethane and purification was not necessary. 1H NMR (400 MHz, CDCl3) δ 7.42-7.32 (m, 5H), 7.08-7.00 (m, 4H), 5.33 (s, 2H), 4.64 (s, 2H), 4.26-4.22 (t, 2H), 3.95 (s, 3H), 1.88-1.81 (m, 2H), 1.62 (br s, 2H); ES MS (M+1)=424.

reactant | methyl 3-benzyloxy-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(NCCC2)=O)C(=O)OC | C16H17N3O4
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | Methyl 3-benzyloxy-5-(4-fluorobenzyl)-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CCC2)CC2=CC=C(C=C2)F)=O)C(=O)OC | C23H22FN3O4
